US09302991B2
<Step-1>:methyl 6-(3,3,3-trifluoropropoxy)nicotinate
The title compound is prepared in 47% yield (1.37 g, colorless oil) from methyl 6-chloronicotinate (2.0 g, 11.7 mmol) and 3,3,3-trifluoropropan-1-ol instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-2.

reactant | methyl 6-chloronicotinate | 11.7 mmol, 2.0 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | 3,3,3-trifluoropropan-1-ol | FC(CCO)(F)F | C3H5F3O
product | methyl 6-(3,3,3-trifluoropropoxy)nicotinate | 47% yield | FC(CCOC1=NC=C(C(=O)OC)C=C1)(F)F | C10H10F3NO3
